
.temp 27

.include dut.cir

******************************* dut testbench 1 *******************************
v_vds_1 d_1 0 0.5
e_vgs_1 g_1 0 v_sweep 0 1
v_vs_1 s_1 0 0
v_vbs_1 b_1 0 0
x_1 d_1 g_1 s_1 b_1 dut l=5e-6 w=10e-6
*******************************************************************************

******************************* dut testbench 2 *******************************
v_vds_2 d_2 0 1
e_vgs_2 g_2 0 v_sweep 0 1
v_vs_2 s_2 0 0
v_vbs_2 b_2 0 0
x_2 d_2 g_2 s_2 b_2 dut l=10e-6 w=10e-5
*******************************************************************************

v_sweep v_sweep 0 0

******************************* save data to file *****************************
.control

alterparam dut vth0 = 0.1
reset

echo "ids_1,vgs_1,vds_1,vbs_1,ids_2,vgs_2,vds_2,vbs_2" > transfer_characteristic_discrete_values_results.csv

set values_list = ( 0.2 0.7 1 1.1 2 2.5 3 4.3 7 8 9 10 )
foreach val $values_list
    alter v_sweep $val
    op
    let ids_1 = i(v_vs_1)
    let vgs_1 = v(g_1,s_1)
    let vds_1 = v(d_1,s_1)
    let vbs_1 = v(b_1,s_1)
    let ids_2 = i(v_vs_2)
    let vgs_2 = v(g_2,s_2)
    let vds_2 = v(d_2,s_1)
    let vbs_2 = v(b_2,s_2)
    echo "$&ids_1,$&vgs_1,$&vds_1,$&vbs_1,$&ids_2,$&vgs_2,$&vds_2,$&vbs_2" >> transfer_characteristic_discrete_values_results.csv
end

*compose values_list values 0.2 10
*let kot = vector(length(values_list))
*echo $&kot >> transfer_characteristic_discrete_values_results.csv
*let i = 0
*
*set tmp = ""
*
*foreach val $&values_list
*    alter v_sweep $val
*    op
*    let kot[i] = i(v_vs_1)
*    let i = i + 1
*    appendvector tmp "123\n"
*end
*
*echo $tmp
*echo $&kot >> transfer_characteristic_discrete_values_results.csv

.endc
*******************************************************************************

.end
